US05395934
2-Benzyloxymethyl-5-chloro-4-{N-[3-(methylamino)-propyl]-amino}-3(2H)-pyridazinone
5.35 g (15.63 mmoles) of 2-benzyloxymethyl-5-chloro-4-[N-(3-chloropropyl)-amino]-3(2H)-pyridazinone [which can be prepared according to method 3.ii)] are dissolved in 40 ml of ethanol containing 33% of methylamine. The solution is kept at 100° C. for 5 hours in a pressure-tight steel tube. The solvent is evaporated and the residue is subjected to chromatography on a silica gel column. Thus 4.19 g (80%) of the desired compound are obtained. Rf =0.35.

reactant | 2-benzyloxymethyl-5-chloro-4-[N-(3-chloropropyl)-amino]-3(2H)-pyridazinone | 15.63 mmoles, 5.35 g | C(C1=CC=CC=C1)OCN1N=CC(=C(C1=O)NCCCCl)Cl | C15H17Cl2N3O2
reactant | methylamine | CN | CH5N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-Benzyloxymethyl-5-chloro-4-{N-[3-(methylamino)-propyl]-amino}-3(2H)-pyridazinone | 4.19 g, 80% | C(C1=CC=CC=C1)OCN1N=CC(=C(C1=O)NCCCNC)Cl | C16H21ClN4O2
